US06664291B2
5-(2,6-Dichloro-4-nitro-phenoxy)-2-methoxy-benzoic acid
To a solution of 5-(2,6-dichloro-4-nitro-phenoxy)-2-methoxy-benzaldehyde (3.0 g, 8.8 mmol) in a mixture of THF (50 ml), tert-butyl alcohol (50 ml) and 2-methyl-2-butene (11 ml, 132 mmol) was added dropwise a solution of sodium chlorite (7.1 g, 79 mmol) in potassium phosphate buffer (100 ml of a 0.6 M solution, 60 mmol). The resulting mixture was stirred vigorously for 16 h at RT then acidified with 1 M HCl (200 ml). The resulting mixture was extracted with EtOAC (3×150 ml). The combined EtOAc extracts were washed with 1 M HCl (2×250 ml), water (250 ml), 10% NaHSO3, and brine (250 ml). The extracts were dried (Na2SO4), filtered, and concentrated to give the title compound of Step B (3.1 g) as a yellow solid. The title product of Step B was used in the next step without further purification. MS (ES−) Calc.: 357.0, Found: 356.0 (M−1).

reactant | 5-(2,6-dichloro-4-nitro-phenoxy)-2-methoxy-benzaldehyde | 8.8 mmol, 3.0 g | ClC1=C(OC=2C=CC(=C(C=O)C2)OC)C(=CC(=C1)[N+](=O)[O-])Cl | C14H9Cl2NO5
reactant | 2-methyl-2-butene | 132 mmol, 11 ml | CC(C)=CC | C5H10
reactant | sodium chlorite | 79 mmol, 7.1 g | Cl(=O)[O-].[Na+]
reactant | HCl | 1 M, 200 ml | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | tert-butyl alcohol | 50 ml | C(C)(C)(C)O | C4H10O
product | 5-(2,6-Dichloro-4-nitro-phenoxy)-2-methoxy-benzoic acid | 3.1 g | ClC1=C(OC=2C=CC(=C(C(=O)O)C2)OC)C(=CC(=C1)[N+](=O)[O-])Cl | C14H9Cl2NO6
